US04198424
2-(1-isopropyl-2-pyrrolidinylidene)-1-(3-methoxyphenyl)ethanone
A solution of 7.6 g of sodium in 100 ml of ethanol is added dropwise(*) at 90° within 2 hours to a mixture of 88 g of 1-isopropyl-2-dimethylamino-1-pyrrolinium methyl sulfate and 42 g of 3-methoxyacetophenone. Stirring is continued for a further 4 hours at this temperature; the solvent is distilled off in a vacuum; and the residue is distributed in 250 ml of dichloromethane and 250 ml of water. The organic phase is collected, dried over sodium sulfate and concentrated. The oil remaining behind is freed from excess 3-methoxyacetophenone by heating under a high vacuum. Yield: 42.8 g (59% of theory) of the title compound as brown oil.

reactant | sodium | 7.6 g | [Na] | Na
reactant | 1-isopropyl-2-dimethylamino-1-pyrrolinium methyl sulfate | 88 g | COS(=O)(=O)[O-].C(C)(C)[N+]1=C(CCC1)N(C)C
reactant | 3-methoxyacetophenone | 42 g | CC(=O)C1=CC(=CC=C1)OC | C9H10O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(1-isopropyl-2-pyrrolidinylidene)-1-(3-methoxyphenyl)ethanone | C(C)(C)N1C(CCC1)=CC(=O)C1=CC(=CC=C1)OC | C16H21NO2
